US08957093B2
Step 5: (S)-1-([1,1′-Biphenyl]-4-ylmethyl)-N-(1-(4-nitrophenyl)ethyl)-1H-indole-5-carboxamide
A high-pressure vial was filled with the (S)-1-(4-bromobenzyl)-N-(1-(4-nitrophenyl)ethyl)-1H-indole-5-carboxamide (50 mg, 0.1 mmol, 1 equiv), the phenylboronic acid (19 mg, 0.15 mmol, 1.5 equiv), K2CO3 (29 mg, 0.2 mmol, 2 equiv), Pd(PPh3)4 (12 mg, 0.01 mmol, 0.1 equiv), dioxane (1.5 mL) and water (0.3 mL). The mixture was degassed for 5 min under argon atmosphere and the vial was sealed. The reaction mixture was heated at 100° C. for 30 min under microwaves. The solution was then concentrated in vacuo, filtered and purified by preparative HPLC to afford a beige powder (50 mg, 0.1 mmol, 100%). ESI-MS (m/z): 476 [M+H]+.

reactant | (S)-1-(4-bromobenzyl)-N-(1-(4-nitrophenyl)ethyl)-1H-indole-5-carboxamide | 0.1 mmol, 50 mg, 1 equiv | BrC1=CC=C(CN2C=CC3=CC(=CC=C23)C(=O)N[C@@H](C)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C24H20BrN3O3
reactant | phenylboronic acid | 0.15 mmol, 19 mg, 1.5 equiv | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 0.2 mmol, 29 mg, 2 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.01 mmol, 12 mg, 0.1 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.3 mL | O | H2O
product | (S)-1-([1,1′-Biphenyl]-4-ylmethyl)-N-(1-(4-nitrophenyl)ethyl)-1H-indole-5-carboxamide | 0.1 mmol, 50 mg, 100% | C1(=CC=C(C=C1)CN1C=CC2=CC(=CC=C12)C(=O)N[C@@H](C)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C30H25N3O3
